US07105671B2
A solution of 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid (204.5 mg, 0.70 mmol), 2-aminothiazole (71 mg, 0.70 mmol), and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (314 mg, 0.70 mmol) in N,N-dimethylformamide (3.55 mL) was treated with N,N-diisopropylethylamine (260 μL, 1.49 mmol). The mixture was stirred under nitrogen at 25° C. for 18 h. At this time, the reaction was diluted with water (50 mL). This solution was extracted with ethyl acetate (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 50/50 hexanes/ethyl acetate) afforded 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-N-thiazol-2-yl-propionamide (232.2 mg, 88.4%) as a white solid: mp 69–71° C.; EI-HRMS m/e calcd for C16H16Cl2N2O2S (M+) 370.0309, found 370.0309.

reactant | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid | 0.70 mmol, 204.5 mg | ClC=1C=C(C=CC1Cl)C(C(=O)O)CC1OCCC1 | C13H14Cl2O3
reactant | 2-aminothiazole | 0.70 mmol, 71 mg | NC=1SC=CN1 | C3H4N2S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.70 mmol, 314 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.49 mmol, 260 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 3.55 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-N-thiazol-2-yl-propionamide | 232.2 mg, 88.4% | ClC=1C=C(C=CC1Cl)C(C(=O)NC=1SC=CN1)CC1OCCC1 | C16H16Cl2N2O2S
